US04279637
PREPARATION OF 1-METHYL-3-[4-(3,4-DICHLOROPHENOXY)PHENYL]-4- IMIDAZOLIN-2-ONE.
N-[4-(3,4-Dichlorophenoxy)phenyl]-N'-(2,2-dimethoxyethyl)-N'-methylurea (0.02 mole), water (30 ml) and concentrated hydrochloric acid (3 ml) are changed into a glass reaction vessel fitted with a mechanical stirrer, thermometer and condenser. The mixture is refluxed for a period of about 30 minutes and then cooled and extracted with ethyl acetate. The extract is washed with dilute aqueous sodium bicarbonate, with two portions of water and is then dried. The ethyl acetate is removed by mild warming under reduced pressure to yield the desired product 1-methyl-3-[4-(3,4-dichlorophenoxy)phenyl]-4-imidazolin-2-one.

reactant | N-[4-(3,4-Dichlorophenoxy)phenyl]-N'-(2,2-dimethoxyethyl)-N'-methylurea | 0.02 mole | ClC=1C=C(OC2=CC=C(C=C2)NC(=O)N(C)CC(OC)OC)C=CC1Cl | C18H20Cl2N2O4
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 1-methyl-3-[4-(3,4-dichlorophenoxy)phenyl]-4-imidazolin-2-one | CN1C(N(C=C1)C1=CC=C(C=C1)OC1=CC(=C(C=C1)Cl)Cl)=O | C16H12Cl2N2O2
